US05236952
A total of 7.2 g of 3,4-dihydroxy-5-nitro-benzonitrile are introduced portionwise into 130 ml of conc. sulfuric acid while stirring within 10 minutes, whereupon the mixture is stirred at 50° for 4 hours. The reaction mixture is poured into 800 ml of ice-water. The separated precipitate is filtered under suction, washed with water and taken up in ethyl acetate. The organic phase is dried over sodium sulfate and evaporated. After recrystallization from acetone/ethyl acetate there is obtained 3,4-dihydroxy-5-nitrobenzamide in the form of orange crystals of m.p. 235°-236°.

reactant | 3,4-dihydroxy-5-nitro-benzonitrile | 7.2 g | OC=1C=C(C#N)C=C(C1O)[N+](=O)[O-] | C7H4N2O4
reactant | sulfuric acid | 130 ml | S(O)(O)(=O)=O | H2O4S
product | 3,4-dihydroxy-5-nitrobenzamide | OC=1C=C(C(=O)N)C=C(C1O)[N+](=O)[O-] | C7H6N2O5
